US05594021
2-Ethylbenzo[b]furan was prepared by the method of example 40A with benzo[b]furan (7.3 mmols), 0.86 g) t-BuLi (1.7 m, 9.4 mmols) iodoethane (4 mmols, 0.9 mls) and THF (15 ml). 1.0 g (95%) of a yellow liquid was isolated.

reactant | benzo[b]furan | 7.3 mmols | O1C2=C(C=C1)C=CC=C2 | C8H6O
reactant | t-BuLi | 9.4 mmols | [Li]C(C)(C)C
reactant | iodoethane | 4 mmols, 0.9 mls | ICC | C2H5I
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 2-Ethylbenzo[b]furan | C(C)C1=CC2=C(O1)C=CC=C2 | C10H10O
